US07767680B2
Preparation 3: N-Cyclopropyl-3-methoxybenzenamine
To a high-pressure tube was added 3-bromoanisole(0.250 mL, 2 mmol), cyclopropylamine (0.225 mL, 3.2 mmol), sodium t-butoxide (0.29 g, 3.0 mmol), (+/−) BINAP (0.04 g, 0.06 mmol), and Pd2(dba)3 (0.010 g, 0.01 mmol). This mixture was suspended in 4 mL anhydrous toluene. The tube was flushed with dry nitrogen gas, then capped and wrapped in aluminum foil. The reaction mixture was stirred and heated to 80° C. overnight, then allowed to cool, and the reaction vessel was opened. The mixture was diluted with diethyl ether, filtered through Celite, and the filtrate was concentrated to a yellow oil. LC/MS analysis showed one peak with the correct mass, and due to the limited stability of the material, it was carried through without further purification. FIA MS 164 (M+1).

reactant | 3-bromoanisole | 2 mmol, 0.250 mL | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | cyclopropylamine | 3.2 mmol, 0.225 mL | C1(CC1)N | C3H7N
reactant | sodium t-butoxide | 3.0 mmol, 0.29 g | CC(C)([O-])C.[Na+]
reactant | (+/−) BINAP | 0.06 mmol, 0.04 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.01 mmol, 0.010 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-Cyclopropyl-3-methoxybenzenamine | C1(CC1)NC1=CC(=CC=C1)OC | C10H13NO
